US07176224B2
A. 2-Phenoxy-3-(4-benzyloxynaphthalen-1-yl)-2-methylpropionic acid ethyl ester
3-(4Benzyloxynaphthalen-1-yl)-2-phenoxy-3-hydroxy-2-methylpropionic acid ethyl ester (1.80 g, 3.9 mmol) in anhydrous CH2Cl2 (20 mL) was cooled to 0° C. and treated with BF3-Et2O (0.48 mL, 3.9 mmol, d=1.154) and triethylsilane (0.63 mL, 3.9 mmol, d=0.728). The mixture was stirred for 2 hr, gradually warming to ambient temperature. Saturated aqueous Na2CO3 (15 mL) was added and the mixture was stirred vigorously for 15 min. The solution was partitioned and the organic layer was washed twice with water and brine, dried over Na2SO4, and concentrated in vacuo to 3-(4-benzyloxynaphthalen-1-yl)-2-phenoxy-2-methylpropionic acid ethyl ester as a golden oil (1.55 g, 89%). Rf=0.41 (9:1 hexanes:ethyl acetate). 1H NMR (300 MHz, CDCl3): δ 8.33 (d, 1H, J=8.3), 8.11 (d, 1H, J=8.3), 7.47 (d, 2H, J=7.8), 7.40 (t, 1H, J=8.3), 7.37 (t, 1H, J=8.3), 7.36 (t, 2H, J=7.8) 7.28 (d, 2H, J=7.8), 7.11 (t, 2H, J=8.8), 6.87 (t, 1H, J=7.8), 6.79 (d, 1H, J=7.8), 6.69 (d, 2H, J=8.8), 5.18 (s, 2H, 4.08 (q, 2H, J=7.0), 3.66 (d, 1H, J=14.4), 3.54 (d, 1H, J=14.4), 1.38 (s, 3H), 1.13 (t, 3H, J=7.0). MS [EI+] 458 (M+NH4)+

reactant | 3-(4Benzyloxynaphthalen-1-yl)-2-phenoxy-3-hydroxy-2-methylpropionic acid ethyl ester | 3.9 mmol, 1.80 g | C(C)OC(C(C(O)C1=CC=C(C2=CC=CC=C12)OCC1=CC=CC=C1)(C)OC1=CC=CC=C1)=O | C29H28O5
reactant | BF3 Et2O | 3.9 mmol, 0.48 mL | B(F)(F)F.CCOCC
reactant | triethylsilane | 3.9 mmol, 0.63 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | Na2CO3 | 15 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-Phenoxy-3-(4-benzyloxynaphthalen-1-yl)-2-methylpropionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C2=CC=CC=C12)OCC1=CC=CC=C1)(C)OC1=CC=CC=C1)=O | C29H28O4
